US04225608
23.5 g of 1,3-dimethyl-4-p-hydroxyphenoxy-hexahydroazepine are dissolved in 100 ml of absolute ethanol, 200 ml of 0.5 N ethanolic KOH are added, the reaction mixture is stirred for one hour at 20° and evaporated and the residue is taken up in 250 ml of absolute DMF. 12.6 g of dimethyl sulfate are added in portions, while stirring. The mixture is boiled for 2 hours and evaporated and the residue is worked up in the customary manner, giving 1,3-dimethyl-4-p-methoxyphenoxy-hexahydroazepine, 2 oily isomers, Rf 0.36 and 0.55.

reactant | 1,3-dimethyl-4-p-hydroxyphenoxy-hexahydroazepine | 23.5 g | CN1CC(C(CCC1)OC1=CC=C(C=C1)O)C | C14H21NO2
reactant | KOH | 0.5 N, 200 ml | [OH-].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 1,3-dimethyl-4-p-methoxyphenoxy-hexahydroazepine | CN1CC(C(CCC1)OC1=CC=C(C=C1)OC)C | C15H23NO2
